US08067448B2
((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
To a 25 mL round bottom flask equipped with a magnetic stir bar and septum was added triphenylphosphine (polymer bound, 3.0 mmol/g loading) (100 mg, 0.3 mmol) under an atmosphere of nitrogen. To this was added methylene chloride (3 mL) followed by addition of solid iodine (76 mg, 0.30 mmol). This was allowed to stir at room temperature for a period of 10 min followed by slow addition of triethylamine (0.17 mL, 1.2 mmol). This mixture was allowed to stir at room temperature for an additional ten min. 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)benzohydrazide (95 mg, 0.15 mmol) was taken up in methylene chloride (5 mL) and slowly added to the heavily stirred reaction mixture. After a period of 20 min, the solid polymer was filtered out and washed with additional methylene chloride (20 mL). The organic filtrate was then washed with 10% sodium thiosulfate/water (2×10 mL), brine (1×20 mL) and dried (Na2SO4). The solution was then filtered and concentrated under reduced to reveal a brown oil/solid, which was purified via silica gel chromatography eluted with 20% EtOAc/hexanes to provide the title compound as a white solid (63 mg, 68%): 1H NMR (400 MHz, CDCl3, δ in ppm) 7.52 (m, 1H), 7.38 (m, 1H), 7.33 (m, 2H), 6.99 (m, 1H), 6.46 (d, J=8.6 Hz, 1H), 5.37 (d, J=8.8 Hz, 1H), 4.80 (dd, J=1.8, 8.8 Hz, 1H), 4.54 (m, 1H), 2.37 (s, 3H), 1.42 (d, J=6.2 Hz, 3H), 0.98 (s, 9H), 0.86 (s, 9H), 0.19 (s, 6H), 0.06 (s, 3H), −0.20 (s, 3H).

reactant | triphenylphosphine | 0.3 mmol, 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.30 mmol, 76 mg | II | I2
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)benzohydrazide | 0.15 mmol, 95 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)NNC([C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1 | C31H47ClN4O4Si2
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | ((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 63 mg, 68% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H45ClN4O3Si2
